US07384934B2
Combine (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene (0.181 g, 0.469 mmol), formaldehyde (50 μL, 0.610 mmol, 37%), and sodium triacetoxyborohydride (0.149 g, 0.704 mmol) in dichloroethane (12 mL) and stir at room temperature for 2 hours. Dilute the mixture with saturated sodium bicarbonate and extract three times with methylene chloride. Combine the organic layers, dry over sodium sulfate and concentrate under reduced pressure to give the crude product. Purification by flash chromatography, eluting with a step gradient starting with dichloromethane going to 5% 2N ammonia-methanol in dichloromethane gives (S)-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2 isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene (0.168 g, 0.420 mmol, 90%) as a yellow oil: mass spectrum (APCI): m/z=400.3 (M+1). Isolate clean product as the corresponding dihydrochloride in the following manner: dissolve the yellow foam in ethanol (5 mL) and add a solution of about 5 equivalents of HCl in ethanol (5 mL). Evaporate the mixture to obtain the title compound as a brown foam. Exact Mass, Calc: 400.2171; Found: 400.2171.

reactant | (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.469 mmol, 0.181 g | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(C)C)C=CC=C2 | C20H27N5OS
reactant | formaldehyde | 0.610 mmol, 50 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.704 mmol, 0.149 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 12 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S)-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2 isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.420 mmol, 0.168 g, 90% | COCC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=NC13)C(C)C)C=CC=C2 | C21H29N5OS
